US05043354
To a solution of conc. sulfuric acid (1 ml) was added 2,3-dihydro-2-(1-hydroxy-1-methylethyl)-6-methoxy-5-benzofuranol (50 mg) in several portions during a period of few minutes. The mixture was stirred for 10 minutes at ambient temperature and poured into ice water. The separated oil was extracted with methylene chloride. The organic layer was washed with water, dried, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (n-hexane/methylene chloride =1/1) to yield 5-hydroxy-6-methoxy-2-(1-methylethyl)benzofuran (20 mg) as crystals.

reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2,3-dihydro-2-(1-hydroxy-1-methylethyl)-6-methoxy-5-benzofuranol | 50 mg | OC(C)(C)C1OC2=C(C1)C=C(C(=C2)OC)O | C12H16O4
product | 5-hydroxy-6-methoxy-2-(1-methylethyl)benzofuran | 20 mg | OC=1C(=CC2=C(C=C(O2)C(C)C)C1)OC | C12H14O3
